US05254687
A mixture of 1.1 g (5 mmol) of 3-(4-carbethoxyphenyl)propanal and 150 mg (5 mmol) of paraformaldehyde in 10 mL of ethanol, together with 230 mg (0.9 mmol) of ethyl benzothiazolium bromide and 90 mg (0.9 mmol) of triethylamine, is heated at about 70° C. for 16 hours. The reaction mixture is concentrated in vacuo and the product further purified by chromatography on silica gel, eluting with 15:85 ethyl acetate:hexane, to yield ethyl 4-(4-hydroxy-3-oxobutyl)benzoate as a colorless oil which solidifies upon standing; m.p. 51°-52° C. Anal. calcd for C13H16O4 : C, 66.09; H 6.83. Found: C, 66.29; H, 6.70.

reactant | 3-(4-carbethoxyphenyl)propanal | 5 mmol, 1.1 g | C(=O)(OCC)C1=CC=C(C=C1)CCC=O | C12H14O3
reactant | paraformaldehyde | 5 mmol, 150 mg | C=O | CH2O
reactant | ethyl benzothiazolium bromide | 0.9 mmol, 230 mg | [Br-].C(C)C=1SC2=C([NH+]1)C=CC=C2
reactant | triethylamine | 0.9 mmol, 90 mg | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | ethyl 4-(4-hydroxy-3-oxobutyl)benzoate | OCC(CCC1=CC=C(C(=O)OCC)C=C1)=O | C13H16O4
